US08609873B2
4-cyanopyridine was reacted with 1 equivalent of HOF.MeCN to yield 59% of 4-cyanopyridine-N-oxide.

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | HOF | 1 equivalent | OF | FHO
solvent | MeCN | CC#N | C2H3N
product | 4-cyanopyridine-N-oxide | 59% | C(#N)C1=CC=[N+](C=C1)[O-] | C6H4N2O
